Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I started to feel depressed on ___ 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ (___) ED Initial Psychiatry Consult note:
.
"The patient has experienced depression and anxiety since early 
adolescence (in the setting of family turmoil and death of her 
mother- see below). She says that over recent weeks she has felt 
more depressed and anxious in the setting of significant school 
stress.  She missed an appointment with her psychiatrist and ran 
out of meds (Paxil and Abilify) about ___ weeks ago, then did 
not follow up or refill the meds as she felt increasingly guilty 
and discouraged. Depression has since worsened and over the past 
few days she began to have suicidal thoughts. Yesterday she 
became preoccupied with the thought of overdosing, and she went 
to the pharmacy and bought a bottle of Tylenol. She says she had 
researched on the internet - since the maximum daily dose is
4000mg she believed that a dose of 25000mg, in combination with 
alcohol, would likely cause liver failure and death.  She then 
felt tired and went to sleep without taking the pills. This 
morning she continued to feel suicidal and called a suicide 
hotline- they advised her to go to ___, which 
she did, and she was then transferred here.
.
Currently she says she feels 'pretty anxious', unsure about 
current suicidal thoughts but feels she needs help.
.
Academic pressures have been significant. She is having more 
difficulty this term, getting Cs and Ds and maybe failing a 
course. She denies particular social or relationship problems; 
she seems to have supportive friends. She does suggest her 
relationship with her father is complicated.
.
Recent depression has been characterized by low mood, feelings 
of hopelessness and worthlessness, guilt, anhedonia, low energy 
and motivation, increased sleep, decreased appetite.
.
She denies any manic or psychotic symptoms. No panic or OCD. No 
h/o abnormal eating behaviors.
.
With the patient's permission I called her father ___ 
___ - he has limited awareness of her current 
situation, unaware that she has been so depressed.
.
I also spoke with her therapist ___, Ed.D., ___ 
___ - she was not aware of significant worsening of 
mood, apparently patient had not been completely open with her 
(patient told her she had rescheduled appt with psychopharm 
which was not true)"
.
ED Course: Patient remained in good behavior control. No 
chemical or physical restraints administered.  Did not require 
any PRNs. Upon interview on Deac 4, patient reported that she 
has had depression since childhood, but her depression recently 
worsened. On ___ patient explains that she purchased Tylenol 
and beer with plan of overdosing. However, upon getting home, 
while waiting for her beer to get cold, she took and shower and 
became tired so she went to sleep. Upon waking up, she felt "a 
little better" so she called a hotline and was told to go to her 
___. She states that she has had suicidal 
thoughts in the past. She states the last time she had SI was 
___ years ago. At that time she decided to take a medical leave 
from school and go back to ___ to attend a PHP for ___ 
weeks. She returned to school last summer, and was doing well 
until recently. She explains that she has been having difficulty 
in school lately. She has been taking difficult classes and is
applying for the NEU co-op program.
.
Denies having current SI, and reports feeling safe in the unit. 
She states that she feels comfortable telling staff if she 
begins to feel unsafe. Last had thoughts of suicide earlier this 
morning in ___ ED, after her father was called from the ___ 
___. 
.
In that moment, she felt that going to ___ was a 
mistake, and wanted to leave and "not deal with anything 
anymore." 
.
She endorses depressed mood, anhedonia, decreased appetite, 
hypersomnia (sleeping ~12 hours per night), fatigue/loss of 
energy, worthlessness/guilt, hopelessness, recurrent thoughts of 
death, and rumination (about disappointing people and what 
people think about her). 
.
Patient recognizes that she needs help and wants to focus on 
working on her next steps. She thinks this it will be beneficial 
for her to be on the unit because she will be in a location 
where she is away from the stress of school and can focus on her 
mental health.

 
Past Medical History:
All histories as per Dr. ___ (___) ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate:
.
========================
- Past diagnoses: depression, anxiety, ?autism (during patient's
treatment program in ___, and "autism could not be ruled
out")
- Hospitalizations: denies, has attended PHP in ___, ___
(___)
- Psychiatrist: ___, ___ ___ 
- Therapist: ___: ___
- Medication and ECT trials: Paxil, Ability
- Self-injurious behaviors: In elementary school, patient 
reports
head banging, but denies SIB since childhood
- Suicide attempts: Denies
- Harm to others: Denies
- Trauma: She denies any history of trauma but recalls being
spanked as a child and early family life was somewhat chaotic,
also considers her mother's passing as a trauma
.
====================
PAST MEDICAL HISTORY
====================
- PCP: ___
- ___ of head trauma: Denies
- Hx of seizure: Denies
- PMHx: Denies
.
===========
MEDICATIONS
===========
Paxil 50 mg daily
Ability 10 mg daily

 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: occasional use, drinks about ___ drinks once a week,
denies h/o withdrawal
- Tobacco: denies
- Cannabis: denies, history of social use (but hasn't used for
___ years)
- Illicits: denies
.
================
FORENSIC HISTORY
================
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies
.
==============
SOCIAL HISTORY
==============
- B/R: ___
- Family: Her father used drugs and her parents divorced when 
she
was young. Her mother then was ill with ovarian cancer, father
(then clean) moved back in to help out.  Mother died when 
patient
was ___ (___) and the patient and her sister remained with her
father. She has a twin sister and a ___ year old brother. Father
and siblings remain in ___.
- Relationship status: she has "maybe a boyfriend" who lives in
___, reports that they flirt and she feels close to him
- Primary supports: her "boyfriend" in ___, sister, feels
supported
- ___: lives with roommates in off campus apartment
- Education: ___ year student at ___ (expects to graduate
next summer), studying biochem
- Employment/income: Financial aid, father's financial support
- ___: Denies
- Access to weapons: Denies

 
Family History:
- Fam Dx:depression in mother, brother, sister; father with
remote history of drug use
- Fam Hospitalizations:Denies
- Fam Treatment Hx/Med Trials: Unknown
- Fam Hx Suicide: Denies
 
Physical Exam:
Vital Signs:
T: 99.4, BP:113/77, HR:88, RR: 16, 99% RA  
.
GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted
.
NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing
 
Pertinent Results:
___ 01:25PM BLOOD WBC-11.1* RBC-4.88 Hgb-13.7 Hct-41.0 
MCV-84 MCH-28.1 MCHC-33.4 RDW-12.6 RDWSD-38.5 Plt ___
___ 01:25PM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-139 K-4.0 
Cl-101 HCO3-24 AnGap-14
___ 06:46AM BLOOD %HbA1c-5.0 eAG-97
___ 01:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:46AM BLOOD T4-6.4 T3-114
___ 12:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 12:00PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
Brief Hospital Course:
.
Ms. ___ is a ___ year old female with no notable 
past medical history and a past psychiatric history notable for 
severe, recurrent major depressive disorder and generalized 
anxiety disorder, with no past inpatient hospitalization and one 
PHP around ___ years ago for suicidal ideation, who was brought 
in from ___ for suicidal ideation with plan 
to overdose by combining Tylenol and alcohol.
.
On initial interview, the patient endorsed low mood, feelings of 
guilt, hopelessness, and worthlessness, lack of motivation, 
anhedonia, increased sleep, decreased energy, and decreased 
appetite that had been worsening over the past few weeks, in the 
setting of discontinuing her psychiatric medications and less 
frequent visits with her therapist in ___, as well as exam 
stress. The patient has a long history of depression and 
anxiety, beginning around the time her mom was diagnosed with 
(and subsequently died from) ovarian cancer.
.
The presentation is most consistent with a major depressive 
episode as part of the patient's long-term history of MDD. 
Patient also endorses symptoms of an anxiety disorder, though 
this may well be secondary to her MDD. There is no current 
indication that a medical etiology, personality disorder, 
bipolar diathesis, or psychotic disorder explains the patient's 
symptoms.
.
#. Legal/Safety
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11). She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout her admission. She was advanced to group 
walks after several days. There were no acute behavioral 
concerns throughout her stay.
.
#. Depression
- On admission to the unit, patient denied any suicidal 
ideation. She did endorse a number of neurovegetative symptoms 
as described above, thought to be consistent with a depressive 
episode as part of her MDD. In extended conversations with the 
patient, she discussed her fear of disappointing others, 
difficulty with being fully transparent with family members 
about her symptoms, as well as ongoing feelings of loss related 
to her mother's death.
.
Patient was started on Lexapro 10 mg on ___. She tolerated 
the medication well noting only intermittent GI distress that 
did not require any titration or adjunctive medications. She 
endorsed intermittent passive suicidal ideation while on the 
unit which occurred during periods of rumination when she was 
not actively engaged in a task. She was an active participant in 
the milieu and was noted to interact positively with other 
patients. She also was a regular participant in multiple groups 
including coping skills.
.
At the time of discharge, a family meeting was held wither her 
father in attendance. ___ stated that she was excited to be 
returning home, though noted that she continued to feel anxious 
about her depression relapsing after she finished her treatment 
at ___. She was, however, able to make a safety plan 
that included reaching out to friends, family, suicide hotlines, 
and then return to an emergency department as a fail-safe. Her 
MSE was notable for euthymic though anxious affect, linear 
thought process, no evidence of auditory/visual hallucinations 
or other psychotic symptoms.
.
#. SUBSTANCE USE DISORDERS:
There were no substance use disorders diagnosed or treated 
during the patient's admission.
.
#. MEDICAL
No medical issues-- there were no concerning findings on 
admission labs/physical exam and the patient has no known 
medical history.
.
#. DISPO
On ___, the patient was discharged to the care of her 
father, who had flown up from ___. The patient will be 
returning with her father to the ___ area and live with him. 
She will be attending a PHP at ___ where she will 
receive both medication and therapy management. The patient will 
be deciding as to whether she wants to return to ___ for 
school or transfer to a school closer to home.

 
Medications on Admission:
Paxil 50 mg daily
Ability 10 mg daily
 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO QHS 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
VS:

T 98.1, 118/76, HR 71, RR 16, O2 98% RA   

MSE:

 -Appearance: young woman appearing stated age, adequately
groomed, wearing leggings and a sweater, in no apparent distress
 -Behavior: Sitting up in chair. Appropriate eye contact 
(markedly improved from admission), although intermittently 
glanced downwards. No psychomotor agitation or retardation 
appreciated.
 -Attitude: Cooperative, engaged, friendly, less reserved 
compared to prior interviews
 -Mood: 'Okay'
 -Affect: Mood-congruent, full range, appropriate to situation,
euthymic
 -Speech: Normal rate and volume, soft tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Intermittent passive SI. Denies HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter.
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Good
 -Judgment: Good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___